US07705053B2
Production of [4-carbamoyl-2-(4-trifluoromethoxy-phenylcarbamoyl)-phenoxy]-acetic acid ethyl ester
The captioned compound was synthesized from 3-N-(4-trifluoromethoxyphenyl)-4-methoxyisophthalamide and ethyl bromoacetate by the same procedure as in the manufacturing method described in Example 1-1-2.

reactant | 3-N-(4-trifluoromethoxyphenyl)-4-methoxyisophthalamide | FC(OC1=CC=C(C=C1)NC(C=1C=C(C(=O)N)C=CC1OC)=O)(F)F | C16H13F3N2O4
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | [4-carbamoyl-2-(4-trifluoromethoxy-phenylcarbamoyl)-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)C(N)=O)C(NC1=CC=C(C=C1)OC(F)(F)F)=O)=O | C19H17F3N2O6
